US08685980B2
Following General Procedure B, 7-cyclopentyl-2-(5-formyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (150 mg, 0.396 mmol) and tert-butyl (2R,6S)-2,6-dimethylpiperazine-1-carboxylate (93 mg, 0.436 mmol) gave (2S,6R)-4-[6-(7-cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-ylmethyl]-2,6-dimethyl-piperazine-1-carboxylic acid tert-butyl ester (170 mg, 74%) [following SiO2 chromatography, eluting with 0-10% MeOH)/dichloromethane]. MS (ESI) m/z 577.3 (M+H)+

reactant | 7-cyclopentyl-2-(5-formyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.396 mmol, 150 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C=O)N1C1CCCC1)C | C20H22N6O2
reactant | tert-butyl (2R,6S)-2,6-dimethylpiperazine-1-carboxylate | 0.436 mmol, 93 mg | C[C@H]1N([C@H](CNC1)C)C(=O)OC(C)(C)C | C11H22N2O2
product | (2S,6R)-4-[6-(7-cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-ylmethyl]-2,6-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 170 mg, 74% | C(C)(C)(C)OC(=O)N1[C@H](CN(C[C@H]1C)CC=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(=C2)C(N(C)C)=O)C2CCCC2)C | C31H44N8O3
